US04018922
The 2-trifluoromethyl-10-[3-(4-β-hydroxyethoxy-4-methyl piperidino)-propyl]-phenothiazine was reacted in acetone with an ether solution of hydrogen chloride and the precipitate formed was recovered by vacuum filtration. The product was crystallized from acetone-ethanol mixture to obtain 9.1 g of 2-trifluoromethyl-10-[3-(4-β-hydroxyethoxy-4-methylpiperidino)-propyl]-phenothiazine hydrochloride as white crystals melting at 218° C and soluble in ethanol, slightly soluble in acetone and insoluble in ether and water.

reactant | 2-trifluoromethyl-10-[3-(4-β-hydroxyethoxy-4-methyl piperidino)-propyl]-phenothiazine | FC(C1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCC(CC1)(C)OCCO)(F)F | C24H29F3N2O2S
reactant | ether | CCOCC | C4H10O
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 2-trifluoromethyl-10-[3-(4-β-hydroxyethoxy-4-methylpiperidino)-propyl]-phenothiazine hydrochloride | 9.1 g | Cl.FC(C1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCC(CC1)(C)OCCO)(F)F | InChI=1S/C24H29F3N2O2S.ClH/c1-23(31-16-15-30)9-13-28(14-10-23)11-4-12-29-19-5-2-3-6-21(19)32-22-8-7-18(17-20(22)29)24(25,26)27;/h2-3,5-8,17,30H,4,9-16H2,1H3;1H
